US07256207B2
Step A: Preparation of (S)-2-(tert-Butoxycarbonylamino)-propionaldehyde.
(S)-(−)-2-(tert-Butoxycarbonylamino)-1-propanol (523 mg, 2.98 mmol, 1.0 equiv.) was dissolved in 45 mL methylene chloride in a 100 mL r.b. flask with a magnetic stir bar. To this clear homogeneous solution, Dess-Martin periodinane (1.523 g, 3.591 mmol, 1.2 equiv.) was added in one part and the cloudy white reaction mixture was allowed to stir at room temperature for 2 h. Thin-layer chromotography monitored the reaction to completion. The reaction mixture was diluted with 100 mL ethyl acetate. Sodium bisulfite solution (2 M, 20 mL) was added to the reaction mixture and the organic layer was separated. The aqueous layer was washed with 3×30 mL EtOAc. The combined organic layers were washed with 50 mL 1 M NaOH, followed by saturated NaCl (30 mL) and dried over MgSO4. Filtration and rotary evaporation produced the desired product as a yellow oil (475 mg, 92% yield, Rf=0.63, 1:1 hexanes/ethyl acetate).

reactant | (S)-(−)-2-(tert-Butoxycarbonylamino)-1-propanol | 2.98 mmol, 523 mg, 1.0 equiv. | C(C)(C)(C)OC(=O)N[C@H](CO)C | C8H17NO3
reactant | Dess-Martin periodinane | 3.591 mmol, 1.523 g, 1.2 equiv. | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Sodium bisulfite | 2 M, 20 mL | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-(tert-Butoxycarbonylamino)-propionaldehyde | 475 mg, 92% yield | C(C)(C)(C)OC(=O)N[C@H](C=O)C | C8H15NO3
